US06858591B2
By using an analogous procedure to that described for Reference Example 13, benzyloxycarbonyl-L-aspartic acid [1-benzyl ester (2 g, 5.6 mmol), hydroxybenzotriazole (756 mg, 5.6 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.07 g, 5.6 mmol), 1-amino-3,3-diethoxypropane (784 mg, 5.3 mmol) and N,N-diisopropylethylamine (0.986 mL, 5.6 mmol) were reacted in anhydrous tetrahydrofuran (30 ml) at room temperature for 16 hours, to provide benzyl (3S)-3-{[(benzyloxy)carbonyl]amino}-4-[(3,3-diethoxypropyl)amino]-4-oxobutanoate (2.81 g, 100%) as a pale yellow waxy solid.

reactant | benzyloxycarbonyl-L-aspartic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(=O)O)C(=O)O | C12H13NO6
reactant | hydroxybenzotriazole | 5.6 mmol, 756 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.6 mmol, 1.07 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-amino-3,3-diethoxypropane | 5.3 mmol, 784 mg | NCCC(OCC)OCC | C7H17NO2
reactant | N,N-diisopropylethylamine | 5.6 mmol, 0.986 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | benzyl (3S)-3-{[(benzyloxy)carbonyl]amino}-4-[(3,3-diethoxypropyl)amino]-4-oxobutanoate | 2.81 g, 100% | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(=O)OCC1=CC=CC=C1)C(=O)NCCC(OCC)OCC | C26H34N2O7
